US07932272B2
To a solution of 4-bromobenzonitrile (500 mg, 2.75 mmol) and S-(−)-α-phenylethylalcohol (403 mg, 3.30 mmol) in toluene (5 mL) were added sodium hydride (220 mg, 5.49 mmol; 60% in oil), tris(dibenzylideneacetone)dipalladium(0) (38 mg, 0.0413 mmol) and 2,2-bis(di-p-tolylphosphino)-1,1-binaphthyl (67 mg, 0.099 mmol), and the solution was stirred at 70° C. for 4 hours. The reaction solution was allowed to room temperature, ethyl acetate and water were added for partitioning, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by silica gel column chromatography (hexane:ethyl acetate), and 4-(1-phenyl-ethoxy)-benzonitrile (159 mg, 26%) was obtained as a colorless oil.

reactant | 4-bromobenzonitrile | 2.75 mmol, 500 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | sodium hydride | 5.49 mmol, 220 mg | [H-].[Na+]
reactant | 2,2-bis(di-p-tolylphosphino)-1,1-binaphthyl | 0.099 mmol, 67 mg | C1(=CC=C(C=C1)P(C1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C48H42P2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0413 mmol, 38 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 4-(1-phenyl-ethoxy)-benzonitrile | 159 mg, 26% | C1(=CC=CC=C1)C(C)OC1=CC=C(C#N)C=C1 | C15H13NO
